US08026370B2
{2-[(2-tert-butoxy-1,1-dimethyl-2-oxoethyl)thio]-4-methyl-1,3-thiazol-5-yl}acetic acid
Commercially available (2-mercapto-4-methyl-1,3-thiazol-5-yl)acetic acid (15 g) was dissolved in methanol (360 mL) and 1N aqueous sodium hydroxide solution (174 mL), 2-bromo-2-methylpropionic acid tert-butyl ester (19.4 g) was added, and the mixture was stirred at 60° C. for 6 hr. The reaction mixture was concentrated, the residue was dissolved in water, and the mixture was acidified with 10% aqueous citric acid solution. The precipitated solid was collected by filtration, and dried under reduced pressure to give the title compound (25 g) as a white solid.

reactant | (2-mercapto-4-methyl-1,3-thiazol-5-yl)acetic acid | 15 g | SC=1SC(=C(N1)C)CC(=O)O | C6H7NO2S2
reactant | 2-bromo-2-methylpropionic acid tert-butyl ester | 19.4 g | C(C)(C)(C)OC(C(C)(C)Br)=O | C8H15BrO2
solvent | methanol | 360 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 174 mL | [OH-].[Na+]
product | {2-[(2-tert-butoxy-1,1-dimethyl-2-oxoethyl)thio]-4-methyl-1,3-thiazol-5-yl}acetic acid | 25 g | C(C)(C)(C)OC(C(C)(C)SC=1SC(=C(N1)C)CC(=O)O)=O | C14H21NO4S2
